### PR TITLE
[Merged by Bors] - feat(Data/Finsupp/Basic): add `comapDomain_embDomain` and generalize `comapDomain_surjective`

### PR DESCRIPTION
**Pull request by Hagb**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finsupp/Basic.lean [hunk 1]
```diff
@@ -514,6 +514,11 @@ lemma embDomain_comapDomain {f : α ↪ β} {g : β →₀ M} (hg : ↑g.support
   · replace hg : g b = 0 := notMem_support_iff.mp <| mt (hg ·) hb
     rw [embDomain_notin_range _ _ _ hb, hg]
 
+@[simp]
+theorem comapDomain_embDomain (f : α ↪ β) (l : α →₀ M) :
+    comapDomain f (embDomain f l) f.injective.injOn = l := by
+  ext; rw [comapDomain_apply, embDomain_apply_self]
```
Comment (joneugster) [inline Mathlib/Data/Finsupp/Basic.lean]:
```suggestion
  ext; simp
```
since both applied lemmas are `simp` lemmas, I think this highlights better what's happening. Or `simp only` if that isn't discouraged by the style guide.

**Review by joneugster — APPROVED** [review]
Thank you for the PR!

File: Mathlib/Data/Finsupp/Basic.lean (hunk 1 above)
Comment (Hagb) [reply Mathlib/Data/Finsupp/Basic.lean]: Thanks! It should be okay since it is a terminal simp.

**Review by joneugster — APPROVED** [review]
Thank you for the PR!

maintainer merge
